US03965257
4'-Dimethylamino-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone
Through a solution of 18 g (0.041 mole) of 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone in 150 ml of dimethylsulfoxide (DMSO) was vigorously bubbled dimethylamine for 6 hours at 100°C. Most of the DMSO was removed at reduced pressure and a temperature of 120°C. The remaining mixture was poured into water and sodium carbonate to which was added a small amount of methanol. The resulting solid was filtered and dissolved in warm methanol and isopropyl alcohol, treated with charcoal filtered, and cooled. The solid which formed upon cooling was filtered off and recrystallized from acetone-heptane to give the desired product, M.P. 148°-150°C.

reactant | 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone | 0.041 mole, 18 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | C28H30FNO2
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4'-Dimethylamino-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone | CN(C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)C | C30H36N2O2
